Name:  ___   Unit No:   ___
 
___ Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: PSYCHIATRY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
"I a lot better than I was yesterday, but I still feel depressed 
"

 
Major Surgical or Invasive Procedure:
none
 
History of Present Illness:
Patient is a ___ y/o M with a history of schizoaffective 
disorder,
substance use disorder, and history of physical and verbal
aggression who was BIBA from ___ on ___ for grossly
impaired judgment, increased aggressiveness is cafeteria at
___, poor impulse control, later endorsing SI with
plan. 
   
On initial interview patient endorsed the following;
On interview patient initially unable to carry a conversation,
speaking very fast in a low voice making comments about dirt
bikes, a dog, and mentioning how his eye hurt. Patient later is
confused about how he arrived at the room he was in, making
frequent statements regarding " was this the room I was always
in". He became irritated when he was unable to pronounce word
correctly or speak in full sentences. He is eventually able to
carry out a more linear conversation, states that he wants to
kill himself because he is sad about his uncle who died but does
not want to go into detail about that. Patient also states that
he misses his dog. He then later changed the conversation to 
talk
about dirt bikes and how he used to ride them in the past, he
misses being able to ride them. He later states he frequently
feels like a failure and keeps messing up. His plan is to jump 
in
front of a train, when asked what train he would use he states "
the regular ones that you use to get around". Patient endorses
passive HI against the group home member with whom he was in a
fight with. He states that if he could he would hit him again,
and admits to wanting to hit other people when he gets angry. 
During the conversation patient makes frequent inappropriate
comments to the interviewer, and is difficult to re-orient to
conversation. Patient is unable to complete full psychiatric
review of systems due to patient not being amenable to continue
with interview.  

On current interview patient endorses the following;
On interview patient now states he is no longer acutely suicidal
but still very depressed, he feels sad due to his uncle passing
away recently. He also feels like many negative things have been
happening in his life, such as getting in a fight with his
friend, getting kicked out of his house, also getting into a
fight with his cousin and fighting with the staff at the ___. He states that the suicidal thoughts still come and go, he
states " I just feel black, I don't care if I live". He states
that he feels like the doctors at the ___ are against him,
always claming he is drugged with K2, he states he only smokes
regular marijuana, and he sometimes get confused because he has
had many head injuries. He states he no longer feels like he
would hurt anyone. He has in the past heard voices and had seen
things that weren't there. He currently does not endorse hearing
voices, or auditory hallucinations.   
 
Past Medical History:
- History of multiple concussions secondary to BMX biking with 
questionable seizure at age ___ (negative MRI at ___ 
___ at that time)
- History of recurrent headaches

Past psychiatric history:  
Diagnoses: schizoaffective disorder, schizophrenia 
Hospitalizations: Multiple past psychiatric hospitalizations,
last one at ___, ___ on ___. In past
___ at least 4 prior psych admissions
there during ___. 
Current treaters and  treatment: Psychiatrist Dr. ___ at 
___ ___ therapist ___ Mental ___ 
Medication and ECT trials: Abilify, Trazodone, Mirtazapine,
Risperidone, 
Self-injury: history verbal and physical violence, mother and
grandmother both have restraining orders against him, hx of an
overdose ___ years ago 
Harm to others: last week 
Access to weapons: none 
 
Social History:
___
Family History:
Extensive history of schizophrenia in family including
grandmother's sister, mother's cousin, uncle with alcohol use
disorder
 
Physical Exam:
PHYSICAL EXAMINATION:
 VS: T:98.2 , BP:122/77 , HR:81 , R:16 , O2 sat: 97% on RA

General: young Caucasian male in NAD. Well-nourished,
well-developed. Appears younger than stated age.
 HEENT: Normocephalic, atraumatic. PERRL, EOMI. visible abrasion
of right eye, with corneal erythema. Oropharynx clear.
 Neck: Supple.
 Back: No significant deformity.
 Lungs: CTA ___. No crackles, wheezes, or rhonchi.
 CV: RRR, no murmurs/rubs/gallops. 
 Abdomen: +BS, soft, nontender, nondistended. No palpable masses
or organomegaly.
 Extremities: No clubbing, cyanosis, or edema.
 Skin: No rashes, abrasions, scars, or lesions. 

Neurological:
 Cranial Nerves:
 -Pupils symmetry and responsiveness to light and accommodation:
PERRLA
 -Visual fields: full to confrontation
 -EOM: full
 -Facial sensation to light touch in all 3 divisions: equal
 -Vacial symmetry on eye closure and smile: symmetric
 -Hearing bilaterally to rubbing fingers: normal
 -Phonation: normal
 -Shoulder shrug: intact
 -Tongue: midline

Motor: Normal bulk and tone bilaterally. No abnormal movements,
no tremor. Strength: full power ___ throughout. Coordination:
Normal on finger to nose test. DTRs: 2+ and symmetrical
throughout. Sensation: Intact to light touch throughout. 
 Gait: Steady. Normal stance and posture. No truncal ataxia.
 Romberg: Negative.

Cognition: 
 Wakefulness/alertness: awake and alert
 Attention: intact to interview
 Orientation: oriented to person, time, place, situation
 Executive function (go-no go, Luria, trails, FAS): not tested
 Memory: intact to recent and past history
 Fund of knowledge: consistent with education
 Calculations: not assessed
 Abstraction: not assessed
 Visuospatial: not assessed
 Speech: normal rate, volume, and tone
 Language: native ___ speaker, no paraphasic errors,
appropriate to conversation

Mental Status:
 Appearance: No apparent distress, appears younger stated age,
disheveled, dressed in hospital gown with beanie hat 
 Behavior: Calm, cooperative, excessive eye contact, no
psychomotor agitation or retardation
 Mood and Affect: "depressed" / restricted somewhat flat, 
limited
range, inappropriate laughter, congruent with mood
 Thought Process: linear, goal-oriented. No LOA.
 Thought Content: endorses passive SI denies HI/AH/VH, no
evidence of delusions or paranoia
 Judgment and Insight: poor/limited
 
Pertinent Results:
___ 09:05PM   GLUCOSE-89 UREA N-12 CREAT-0.8 SODIUM-137 
POTASSIUM-4.3 CHLORIDE-99 TOTAL CO2-28 ANION GAP-14
___ 09:05PM   VALPROATE-39*
___ 09:05PM   ASA-NEG ACETMNPHN-NEG bnzodzpn-NEG 
barbitrt-NEG tricyclic-NEG
___ 09:05PM URINE  HOURS-RANDOM
___ 09:05PM URINE  bnzodzpn-NEG barbitrt-NEG opiates-NEG 
cocaine-NEG amphetmn-NEG oxycodn-NEG mthdone-NEG

___ 09:05PM   WBC-11.9* RBC-5.10 HGB-13.8 HCT-41.4 MCV-81* 
MCH-27.1 MCHC-33.3 RDW-14.5 RDWSD-42.3
___ 09:05PM   NEUTS-61 BANDS-2 ___ MONOS-10 EOS-3 
BASOS-0 ___ MYELOS-0 AbsNeut-7.50* AbsLymp-2.86 
AbsMono-1.19* AbsEos-0.36 AbsBaso-0.00*
___ 09:05PM   HYPOCHROM-1+ ANISOCYT-OCCASIONAL 
POIKILOCY-NORMAL MACROCYT-OCCASIONAL MICROCYT-NORMAL 
POLYCHROM-NORMAL
___ 09:05PM   PLT SMR-NORMAL PLT COUNT-200
___ 09:05PM URINE  COLOR-Straw APPEAR-Clear SP ___
___ 09:05PM URINE  BLOOD-NEG NITRITE-NEG PROTEIN-NEG 
GLUCOSE-NEG KETONE-NEG BILIRUBIN-NEG UROBILNGN-NEG PH-6.5 
LEUK-NEG
 
Brief Hospital Course:
Patient is a ___ y/o M with a history of schizoaffective 
disorder, substance use disorder, and history of physical and 
verbal aggression who was BIBA from ___ on ___ for 
grossly impaired judgement, increased aggressiveness is 
cafeteria at homeless shelter, poor impulse control, later 
endorsing active SI with plan. Patients presentation with 
history of recent disorganized thinking and poor impulse 
control, recent physical and verbal altercations, in the setting 
of recent stressors and low valproate serum levels suggestive of 
possible medication non compliance. Current symptoms are 
suggestive of an exacerbation of patients schizoaffective 
disorder, vs a possible substance induced mood disorder given 
history of drug abuse. 

#. Legal/Safety: Patient admitted to ___ on a ___, upon admission, signed a CV, which has been accepted. 
Currently denying suicidal ideation, homicidal ideation, or 
thoughts of self harm, appropriate for 15 minute checks and  
green sharps. He was able to remain safe on unit. 

#. Psychiatric: Schizoaffective disorder, recent decompensation 
and increased irritability with aggression. Pt was continued on 
his home medications. Given increasing reports of aggression and 
agitation, his depakote was increased to 2000mg QHS, (Valproic 
level was 39 on ___ and 82 on ___. Pt reports that he was 
concerned by the increase in medication with concern for 
increased fatigue. However, through the course of his admission, 
he denied any noted side effects of the increase in medication. 
Pt requested multiple times to be put back on stimulants, 
stating these were helpful in the past. 
- Pt was inconsistent in groups attendance. He was seen in the 
milieu for meals, and down time.  No behavioral concerns. Pt was 
compliant and friendly with staff.  
- Pt continued to express a desire to go back to the ___ 
stating that he like it there.  Consistently denying any 
thoughts of self harm. Able to identify a need to walk away when 
confronted by peers, unable to identify other coping skills.
- Pt was in agreement with a plan to go back to ___ 
after spending a two day suspension with his mother.  He 
expressed a desire not to go back to Dr. ___, as she would 
not prescribe him stimulants. He preferred to be seen at ___ 
___, the referral was placed and appointment made. 

#. Medical: #Corneal abrasion on right eye. Pt was continued 
home Erythromycin 0.5% Ophth Ointment QID. Denied any complaints 
during admission. 

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Sertraline 200 mg PO QAM 
2. Mirtazapine 15 mg PO QHS 
3. Haloperidol 10 mg PO QHS 
4. Divalproex (EXTended Release) 1500 mg PO DAILY 
5. Benztropine Mesylate 2 mg PO BID 
6. BusPIRone 10 mg PO TID 
7. Erythromycin 0.5% Ophth Oint 0.5 in RIGHT EYE QID corneal 
abrasion  

 
Discharge Medications:
1.  Divalproex (EXTended Release) ___ mg PO QHS  
2.  Benztropine Mesylate 2 mg PO BID  
3.  BusPIRone 10 mg PO TID  
4.  Erythromycin 0.5% Ophth Oint 0.5 in RIGHT EYE QID corneal 
abrasion   
5.  Haloperidol 10 mg PO QHS  
6.  Mirtazapine 15 mg PO QHS  
7.  Sertraline 200 mg PO QAM  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Schizoaffective disorder 

 
Discharge Condition:
Neurological: gait steady, no shuffling, no ataxia 
Mental Status:
 *Appearance: well nourished, appears stated age, mildly 
groomed,
short curly hair under knit cap. 
 Behavior: calm, minimally cooperative, slouched on chair, tired
 *Mood and Affect: 'good' / euthymic, constricted, congruent 
 *Thought process / *associations:  linear, logical, 
goal-oriented
 *Thought Content: Denies SI/HI/AVH; does not appear to be 
responding to internal stimuli
 *Judgment and Insight: improved 

 
Discharge Instructions:
You were hospitalized at ___ for aggressive behavior and 
suicidal ideation. We adjusted your medications, and you are now 
ready for discharge to follow up with your outpatient providers.

- Please follow up with all outpatient appointments as listed - 
take this discharge paperwork to your appointments.
- Please continue all medications as directed.
- Please avoid abusing alcohol and any drugs--whether 
prescription drugs or illegal drugs--as this can further worsen 
your medical and psychiatric illnesses.
- Please contact your outpatient psychiatrist or other providers 
if you have any concerns.
- Please call ___ or go to your nearest emergency room if you 
feel unsafe in any way and are unable to immediately reach your 
health care providers.

- If your new dose of Depakote was not delivered to ___ 
today (___), please take 4 of your 500mg pills at night 
instead of 3 pills to a dose of 2,000mg nightly. 

*It was a pleasure to have worked with you, and we wish you the 
best of health.*

 
Followup Instructions:
___